US08420290B2
By following the same procedures as in Examples 1-1-1 to 1-1-3 aside from using 1-adamantanemethanol instead of 2-adamantanol and 2-(trifluoromethyl)acrylic acid instead of methacrylic acid, 1-[(1-adamantyl)methoxy]-2-methylpropyl 2-(trifluoromethyl)acrylate was produced (four step yield 67%).

reactant | 1-adamantanemethanol | C12(CC3CC(CC(C1)C3)C2)CO | C11H18O
reactant | 2-(trifluoromethyl)acrylic acid | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
product | 1-[(1-adamantyl)methoxy]-2-methylpropyl 2-(trifluoromethyl)acrylate | yield 67% | FC(C(C(=O)OC(C(C)C)OCC12CC3CC(CC(C1)C3)C2)=C)(F)F | C19H27F3O3
